US07244726B2
tert-Butyl 4-(4-methanesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)piperazine-1-carboxylate (D3)
6-Bromomethyl-4-methanesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine (2.6 g, 8.5 mmol) and tert-butyl piperazine-1-carboxylate (1.58 g, 8.5 mmol) were treated with propan-2-ol (100 mL) followed by N,N-diisopropylethylamine (10.96 g, 85 mmol) and the resulting mixture heated at reflux for 72 h then evaporated to dryness under reduced pressure. The residue was partitioned between ethyl acetate and saturated NaHCO3 aq. and the phases separated. The organic phase was washed with water, saturated brine, dried (MgSO4) and evaporated to dryness under reduced pressure. Chromatography on SiO2, eluting with ethyl acetate in 60°–80° petroleum ether, gave the title compound (2.5 g, 71%) as a brown foam.

reactant | 6-Bromomethyl-4-methanesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine | 8.5 mmol, 2.6 g | BrCC=1C=CC2=C(N(CCO2)S(=O)(=O)C)C1 | C10H12BrNO3S
reactant | tert-butyl piperazine-1-carboxylate | 8.5 mmol, 1.58 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-diisopropylethylamine | 85 mmol, 10.96 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propan-2-ol | 100 mL | CC(C)O | C3H8O
product | tert-Butyl 4-(4-methanesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)piperazine-1-carboxylate | 2.5 g, 71% | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)CN2CCN(CC2)C(=O)OC(C)(C)C | C19H29N3O5S
